US09422281B2
3,4-Dihydro-2H-pyran (0.232 mL, 2.54 mmol) and p-toluenesulfonic acid monohydrate (0.024 g, 0.127 mmol) were added to a solution of 3-bromo-1H-indazole (0.250 g, 1.269 mmol) in ethyl acetate (12.0 ml), and the mixture was heated at reflux for 48 h. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column. gradient elution with 0-25% ethyl acetate-hexane) to afford 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (0.350 g, 98%) as a colorless oil. MS (ESI, pos. ion) m/z 281, 283 [M+H]+.

reactant | 3,4-Dihydro-2H-pyran | 2.54 mmol, 0.232 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.127 mmol, 0.024 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-bromo-1H-indazole | 1.269 mmol, 0.250 g | BrC1=NNC2=CC=CC=C12 | C7H5BrN2
solvent | ethyl acetate | 12.0 ml | C(C)(=O)OCC | C4H8O2
product | 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.350 g, 98% | BrC1=NN(C2=CC=CC=C12)C1OCCCC1 | C12H13BrN2O
